US05238599
Trans 2-(4'-cyano-3 -fluorophenyl)-5-(trans-4'-methylcyclohexyl)-1,3-dioxane.
In 40 cm3 of NMP, 6.2 g (0.016 mol) of 2-(4'-bromo-3'-fluorophenyl)-5-(trans-4'-propylcyclohexyl)-1,3-dioxane and 2.2 g (0.024 mol) of CuCN were refluxed with a mantle heater for 2 hours.

reactant | 2-(4'-bromo-3'-fluorophenyl)-5-(trans-4'-propylcyclohexyl)-1,3-dioxane | 0.016 mol, 6.2 g | BrC1=C(C=C(C=C1)C1OCC(CO1)[C@@H]1CC[C@H](CC1)CCC)F | C19H26BrFO2
reactant | CuCN | 0.024 mol, 2.2 g | C(#N)[Cu]
solvent | NMP | 40 cm3 | CN1CCCC1=O | C5H9NO
product | Trans 2-(4'-cyano-3 -fluorophenyl)-5-(trans-4'-methylcyclohexyl)-1,3-dioxane | C(#N)C1=C(C=C(C=C1)[C@@H]1OC[C@H](CO1)[C@@H]1CC[C@H](CC1)C)F | C18H22FNO2
